US07615562B2
Step E: {4-[4-(2-Azido-propyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared from toluene-4-sulfonic acid 1-methyl-2-{4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-ethyl ester and sodium azide in DMF.

reactant | toluene-4-sulfonic acid 1-methyl-2-{4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-ethyl ester | CC(CC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)OS(=O)(=O)C1=CC=C(C=C1)C | C29H38N4O3S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | {4-[4-(2-Azido-propyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | N(=[N+]=[N-])C(CC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)C | C22H31N7
